US08138197B2
tert-Butyl 4-hydroxy-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-spiro[chroman-2,4′-piperidine]-1′-carboxylate
To a solution of 13.4 g of tert-butyl 4-([tert-butyl(dimethyl)silyl]oxy)-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-spiro[chroman-2,4′-piperidine]-1′-carboxylate in 200 mL of EtOH-THF (5.5:1) at 0° C. was added 67 ml of 1M HClaq dropwise, and the reaction mixture was stirred at rt for 18 h. The reaction mixture was cooled to 0° C., and the mixture was basified with NaHCO3. The mixture was concentrated in reduced pressure, and the residue was acidified with 1M HClaq. The aqueous mixture was extracted with a mixture of CHCl3-MeOH (9:1) three times, and the combined organic layers was washed with brine, dried over Na2SO4, and concentrated in reduces pressure to give the product as a pale brown solid.

reactant | tert-butyl 4-([tert-butyl(dimethyl)silyl]oxy)-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-spiro[chroman-2,4′-piperidine]-1′-carboxylate | 13.4 g | [Si](C)(C)(C(C)(C)C)OC1CC2(CCN(CC2)C(=O)OC(C)(C)C)OC2=CC=C(C=C12)C1=NOC(N1)=O | C26H39N3O6Si
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH THF | 200 mL | CCO.C1CCOC1
product | tert-Butyl 4-hydroxy-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-spiro[chroman-2,4′-piperidine]-1′-carboxylate | OC1CC2(CCN(CC2)C(=O)OC(C)(C)C)OC2=CC=C(C=C12)C1=NOC(N1)=O | C20H25N3O6
